US07132445B2
The iodo-product obtained from Step B above (2.2 g, 8.8 mmol) was dissolved in 60 mL of ether, and stirred in a −78° C. bath. A 1.7 M solution of t-butyllithium in pentane (10.4 mL, 17.7 mmol) was added dropwise. After 20 min, cooling bath was removed. Reaction was continued for 2.5 h, and quenched with H2O (20 mL). The aqueous mixture was stirred overnight and separated. The aqueous layer was extracted with ether (30 mL). The combined organic layers were washed with brine, dried by Na2SO4, and filtered through a Celite pad. Removal of solvent gave 1.10 g (100%) of 3-butylfuran as a reddish-yellow oil.

reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 17.7 mmol, 10.4 mL | CCCCC | C5H12
reactant | ether | 60 mL | CCOCC | C4H10O
product | 3-butylfuran | 1.10 g, 100% | C(CCC)C1=COC=C1 | C8H12O
